data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_459687_2,[C:1]([C:4]([C:3]([C:2]([O:7][H:13])=[O:8])=[O:9])=[O:10])([O:5][H:11])([O:6][H:12])[H:14]>>[C:1]([C:4]([C:3]([C:2]([O:7][H:13])=[O:8])=[O:9])=[O:10])([O:5][H:11])([O:6][H:12])[H:14],49.537359999915225
MR_193417_0,[C:1]([C:2]([O:6][H:9])=[O:8])(/[C:3]([N:4]([H:11])[H:12])=[C:5](\[O:7][H:10])[H:15])([H:13])[H:14]>>[C:1](=[C:3]([N:4]([H:11])[H:12])[C:5]([C:2]([O:6][H:9])=[O:8])([O:7][H:10])[H:15])([H:13])[H:14],57.29827999997454
MR_326246_2,[C:1]1([C:4]([H:19])([H:20])[H:21])([H:10])[C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[N:7]([H:11])[H:12])([O:8][C:2]([H:13])([H:14])[H:15])[O:9]1>>[C:1]([C:4]([H:19])([H:20])[H:21])([N:5]([C:3]([H:16])([H:17])[H:18])[N:7]([H:11])[H:12])([C:6]([O:8][C:2]([H:13])([H:14])[H:15])=[O:9])[H:10],43.34456249999874
MR_467157_0,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:8])(/[N:6]=[C:5](\[C:4](=[O:7])[H:11])[H:12])([H:9])[H:10]>>[C:1](=[N:6][C:5]1([H:12])[C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[H:8])([H:11])[O:7]1)([H:9])[H:10],36.92461000001373
MR_213192_0,[C:1]1([H:8])([H:9])[C:3](=[O:7])[C:2](=[O:6])[C:4]1=[C:5]([H:10])[H:11]>>[C:1]1([H:8])([H:9])[C:3](=[O:7])[C:4]12[C:2](=[O:6])[C:5]2([H:10])[H:11],72.29427499999403
MR_74954_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:5]([H:10])[H:11])([O:8]/[C:4]([C:3]([H:18])([H:19])[H:20])=[C:7](\[N:6]([H:12])[H:13])[H:14])[H:9]>>[C@@:1]1([C:2]([H:15])([H:16])[H:17])([N:5]([H:10])[H:11])[C:4]([C:3]([H:18])([H:19])[H:20])([C:7]([N:6]([H:12])[H:13])([H:9])[H:14])[O:8]1,68.61775250000235
MR_88696_1,[C:1]1([C:3](/[C:4]([N:7]=[C:5]([H:15])[H:16])=[N:8]/[H:10])([H:13])[H:14])([H:9])[C:2]([H:11])([H:12])[O:6]1>>[C:1]1([C:3](/[C:4]([N:7]=[C:5]([H:15])[H:16])=[N:8]/[H:10])([H:13])[H:14])([H:9])[C:2]([H:11])([H:12])[O:6]1,66.9096974999988
MR_457114_0,[C:1](=[C:7]([C:5]([C:2]([H:16])([H:17])[H:18])([C:4]([O:8][H:11])=[O:10])/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:9]/[H:12])[H:15])([H:13])[H:14]>>[C:1](/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:9]/[H:12])(/[C:7](=[C:5](\[C:2]([H:16])([H:17])[H:18])[C:4]([O:8][H:11])=[O:10])[H:15])([H:13])[H:14],65.99041000000128
MR_246979_2,[C:1](=[N:7][C:3]1([H:10])[C:4]([C:5]([N:2]([H:8])[H:9])([H:12])[H:15])([H:11])[O:6]1)([H:13])[H:14]>>[C:1](/[N:7]=[C:3](\[O:6]/[C:4](=[C:5](/[N:2]([H:8])[H:9])[H:12])[H:11])[H:10])([H:13])([H:14])[H:15],36.19796499999353
MR_445714_0,[C:1]([C:4]([N:3](/[C:7](=[C:5](/[C:2]([H:16])([H:17])[H:18])[N:6]([H:10])[H:11])[H:12])[H:9])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]([C:5]([C:2]([H:16])([H:17])[H:18])([N:6]([H:10])[H:11])/[C:7](=[N:3]\[H:9])[H:12])=[O:8])([H:13])([H:14])[H:15],66.05064999999186
MR_608975_0,[C:1]([O:3]/[C:2]([O:4][H:6])=[N:5]\[H:7])([H:8])([H:9])[H:10]>>[C:1]([N:5]([C:2](=[O:3])[O:4][H:6])[H:7])([H:8])([H:9])[H:10],56.89040500000559
MR_507051_0,[C:1](\[N:3]([H:10])[H:11])([O:4][H:8])=[N:6]\[C:2]([O:5][H:9])=[N:7]\[H:12]>>[C@@:1]1([N:3]([H:10])[H:11])([O:4][H:8])[N:6]=[C:2]([O:5][H:9])[N:7]1[H:12],33.76326500000545
MR_462932_1,[C:1]([C:4]([C:2]([H:17])([H:18])[H:19])=[C:3]([N:6]([H:12])[H:13])[N:7]([H:11])[H:14])([O:8][N:5]([H:9])[H:10])([H:15])[H:16]>>[C:1](=[C:4]([C:2]([H:17])([H:18])[H:19])[C:3]([N:6]([H:12])[H:13])([N:7]([H:11])[H:14])[O:8][N:5]([H:9])[H:10])([H:15])[H:16],38.38982249998836
MR_87324_0,[C:1]([C:4]([H:15])([H:16])[H:17])(/[C:5]([C:3]([H:12])([H:13])[H:14])=[N:6]/[C:2]([H:9])([H:10])[H:11])([H:7])[H:8]>>[C:1](\[C:4]([H:15])([H:16])[H:17])(=[C:5](/[C:3]([H:12])([H:13])[H:14])[N:6]([C:2]([H:9])([H:10])[H:11])[H:8])[H:7],66.13724500000508
MR_115363_2,[C:1]1([C:4]([H:18])([H:19])[H:20])([H:9])[C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:12])([H:16])[H:17])([N:7]([H:10])[H:11])[O:8]1>>[C:1]([C:4]([H:18])([H:19])[H:20])([C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:12])([H:16])[H:17])=[O:8])([N:7]([H:10])[H:11])[H:9],52.56692999997085
MR_211037_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([N:4]([H:10])[H:11])=[O:7])([O:5][H:9])[O:6][H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:3](=[N:4]\[H:10])[O:7][H:11])([O:5][H:9])[O:6][H:8],51.71604000001466
MR_634387_1,[C@:1]([C@:2]([C:4]([H:19])([H:20])[H:21])([N:7]([H:14])[H:15])[H:11])([C:5](=[C:8]([H:22])[H:23])[O:9][C:3]([H:16])([H:17])[H:18])([N:6]([H:12])[H:13])[H:10]>>[C@@:1]([C:5]([C@:2]([C:4]([H:19])([H:20])[H:21])([N:7]([H:14])[H:15])[H:11])=[C:8]([H:22])[H:23])([N:6]([H:12])[H:13])([O:9][C:3]([H:16])([H:17])[H:18])[H:10],72.34824000003613
MR_327042_1,[C:1]([C:5]1([C:2]([H:16])([H:17])[H:18])[C@@:7]2([H:12])[N:3]([H:9])[C@@:4]2([N:6]([H:10])[H:11])[C:8]1([H:19])[H:20])([H:13])([H:14])[H:15]>>[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([N:3]([C:4]([N:6]([H:10])[H:11])=[C:8]([H:19])[H:20])[H:9])[H:12])([H:13])([H:14])[H:15],26.74530499999648
MR_327564_0,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[C:4]([H:13])[H:14])([O:5][O:6][H:7])([H:8])[H:9]>>[C:1](=[C:3]([C:2]([H:10])([H:11])[H:12])[C:4]([O:5][O:6][H:7])([H:13])[H:14])([H:8])[H:9],50.45790250001659
